data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I)C.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O>>CC1=C[CH:21]=[C:22]([N:23]1C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I)C.[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C1C2=C(C=CC=C2)C(=CCC[NH:10]C(=O)[O-])C3=C(O1)C=CC=C3.C=C(Cl)Cl.Cl[Zn+]>>[H:20][NH+:10](CCC=C1C2=C(COC3=C1C=CC=C3)C=CC=C2)C(=O)[O-].[OH2:21].C=C(Cl)Cl.Cl[Zn+] 10=20;20,21=21
[Li:11][CH2:10]CC.CC(C)C[AlH:20]CC(C)C>>[Li+:11].CC[CH2:10][AlH-:20](CC(C)C)CC(C)C 10,11=10,20
C1C[CH+:20][C:11]23CCCC2(C1)[CH2:10]3.CC(=O)[O-].CS(=O)(=O)[O-]>>C1C[CH:20]2[CH2:10]C3(C1)[C+:11]2CCC3.CC(=O)[O-].CS(=O)(=O)[O-] 10,11=10,20
C1CC2CC=CCC1[C+:20]=N2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-]>>C1CC2CC=CCC1[C:20](=N2)[OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-] 10=20,
[H:20][N+:21](CC)(CC)CC.CC[N+]1=C(SC(=C1C)CCO)C(C2=CC(=C(C(=C2)OC)OC)OC)[O-:10].CCO.CC(=O)C=C.[Br-]>>[H:20][O:10]C(C1=CC(=C(C(=C1)OC)OC)OC)C2=[N+](C(=C(S2)CCO)C)CC.CC[N:21](CC)CC.CCO.CC(=O)C=C.[Br-] 10=20;20,21=21
CC[NH+:21](CC)[CH:20](C)[N:10](C)C>>CC[NH:21]CC.C[CH:20]=[N+:10](C)C 10=20;20,21=21
CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)[CH-:10][S+:20](C)[O:21]C(=O)C(F)(F)F.C(=O)(C(F)(F)F)O>>CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)[CH:10]=[S+:20]C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][OH2+:21].CCC#[N:10]>>[H:20][N+:10]#CCC.[OH2:21] 10=20;20,21=21
CC1CCCC(=[O:10])C=C1.CC(=C=C)[Si](C)(C)C.Cl[Ti:20](Cl)(Cl)Cl>>CC1CCCC(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)C=C1.CC(=C=C)[Si](C)(C)C 10=20
[H:20][O:21]C(=O)C(=O)O.CC1(CC2CC(=C)CC(C1)([O:10]2)O)C>>[H:20][O+:10]1C2CC(=C)CC1(CC(C2)(C)C)O.C(=O)(C(=O)[O-:21])O 10=20;20,21=21
CC#[N:10].[Cu:20](I)I>>CC#[N+:10][Cu-:20](I)I 10=20,
C#[C:10][Mg:11]Br.C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=C(N=C4)CCCCOC5=CC=C(C=C5)[CH:20]=[O:21]>>C#[C:10][CH:20](C1=CC=C(C=C1)OCCCCC2=CN(C=N2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
CCCCC[C:11]1=[CH:10]C(=C[C:13](=[CH:12]1)[OH:14])O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCC[C:11]1=[CH:12][C:13](=[OH+:14])C=C([CH:10]1[CH2:20]C=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20;12,13=11,12;14=13
[H:20][O:21]C(=O)C(=CI)C.CC[O-:10].CCO.C(=O)=O.[K+]>>[H:20][O:10]CC.CC(=CI)C(=O)[O-:21].CCO.C(=O)=O.[K+] 10=20;20,21=21
[H:20][OH+:21]C1(CCC(CC1)(C)O)OCCO.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][N+:10]1=CC=CC=C1.CC1(CCC(CC1)([OH:21])OCCO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][OH2+:21].C(=[O:10])N>>[H:20][O+:10]=CN.[OH2:21] 10=20;20,21=21
C[C:20]([NH2+:21]C)(OC)[O:10]C.[Cl-]>>C[C:20](=[O+:10]C)OC.C[NH2:21].[Cl-] 10=20;20,21=21
C[CH+:20]C.CC(=O)C1=CO[CH:10]=[CH:11]1>>C[CH:20](C)[CH:10]1[CH+:11]C(=CO1)C(=O)C 10,11=10,20
C[Si](C)(C)OC1=C2C(=CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3)[O-:10].C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.CC1=[NH+]C(=CC=C1)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[Si](C)(C)OC1=C2C(=CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3)[O:10][Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F.CC1=[NH+]C(=CC=C1)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20,
CC[SH:10].C=C[C:20](=[O:21])Cl>>CC[SH+:10][C:20](C=C)([O-:21])Cl 10=20;20,21=21
[H:20][Cl:21].CC1CCCC([C:11](=[CH:10]1)C)C>>[H:20][CH:10]1C(CCCC([C+:11]1C)C)C.[Cl-:21] 10,11=10,20;20,21=21
CC[C:11]#[C:10]CC(CC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CC 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)C)[O-:10]>>[H:20][O:10]C(CCC(=O)C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCC(C1=CC=CC=C1)[C:20](=[O:21])C2=CC=C(C=C2)OCCN(C)C.C1=CC=[C:10](C=C1)[Mg:11]Br>>CCC(C1=CC=CC=C1)[C:20]([C:10]2=CC=CC=C2)(C3=CC=C(C=C3)OCCN(C)C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][CH:21]1CCCC([C:22]1=[O:23])Cl.[OH:10][Na]>>[H:20][OH+:10][Na].C1C[CH:21]=[C:22](C(C1)Cl)[O-:23] 10=20;22,23=23;20,21=21,22
CCN[C:20](C)([OH:10])[O:21]C(=O)C=C>>CCN[C:20](=[OH+:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
[B-:2]([F:1])([F:3])([F:4])[F:5].[CH3:6][C:7]12[CH2:8][CH2:9][CH:10]3[CH:11]([CH:24]1[CH2:25][CH2:26][C:27]2=[O:28])[CH2:12][CH2:13][C:14]4=[C:15]3[CH:16]=[CH:17][C:18](=[C:21]4[N+:22]#[N:23])[O:19][CH3:20]>>[B-:2]([F:5])([F:4])([F:3])[F:1].[CH3:6][C:7]12[CH2:8][CH2:9][CH:10]3[CH:11]([CH:24]1[CH2:25][CH2:26][C:27]2=[O:28])[CH2:12][CH2:13][C:14]4=[C:15]3[CH:16]=[CH:17][C:18](=[C+:21]4)[O:19][CH3:20].[N:22]#[N:23] 21,22=22
CC(CC(C[CH2:20][OH2+:21])C1(CCOCC1)[S:10]C2=CC=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(CC1C[CH2:20][S+:10](C12CCOCC2)C3=CC=CC=C3)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21](C1(CCC=C1)C)P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1(CCC=C1)[O:21]P(=O)(Cl)Cl 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(C)[N:10](C)C>>[H:20][N+:10](C)(C)C(C)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)NC)([O-:10])OCC>>[H:20][O:10]C(CCC(=O)NC)(NCC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
